US06245742B1
Preparation of BocTyr(PO3Et2)OBzl
The title compound was prepared by reaction of BocTyrOBzl (371 mg, 1 mmol) and diethylphosphorochloridate (258 mg, 1.5 mmol) with an excess of NaH (60% in mineral oil) in dry dioxane for 3.5 h at 50° C. under argon atmosphere The solvent was concentrated in vacuo and the residue was dissolved in EtOAc and washed several times with a 5% solution of NaHCO3, a 10% solution of citric acid and a solution of satured NaCl. The organic phase was dried (Na2SO4) and concentrated, giving an oil 254 mg (50% yield), that was used without purification for the next step. FAB mass spectroscopy: m/z 508 [MH]+, 530 [MNa]+. H1NMR (200 Mhz, CDCl3) d (ppm)=7.4-6.85 (m, 9H, aromatics), 5.1 (d, 2H, COOCH2—F), 4.6 (m, 1H, N—CH—CO), 4.3-4 (m, 4H, P—O—CH2—CH3), 3 (t, 2H, CH—CH2—F), 1.4 (m, 15H, CH3− CH2+ tBu).

reactant | BocTyrOBzl | 1 mmol, 371 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H25NO5
reactant | diethylphosphorochloridate | 1.5 mmol, 258 mg | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
reactant | NaH | [H-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | BocTyr(PO3Et2)OBzl | N([C@@H](CC1=CC=C(C=C1)OP(=O)(OCC)OCC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H34NO8P
